US07468443B2
In 8.5 mL of methylene chloride was dissolved 1.52 g of 3-[2-(1-benzothiophen-5-yl)ethoxy]-1-(3-hydroxy-1-azetidinyl)-1-propanone, and 2.6 mL of N,N-diisopropylethyl-amine was added to the solution. After the resulting mixture was cooled to 5° C., 1.0 mL of chloromethyl methyl ether was added thereto, followed by stirring at room temperature for 17 hours. Water and ethyl acetate were added to the reaction mixture and the organic layer was separated. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then distilled under reduced pressure to remove the solvent. The residue was purified by a column chromatography (eluent; toluene:ethyl acetate=3:1 to 1:1) to obtain 1.40 g of 3-[2-(1-benzothiophen-5-yl)ethoxy]-1-[3-(methoxymethoxy)-1-azetidinyl]-1-propanone as an oil.

reactant | 3-[2-(1-benzothiophen-5-yl)ethoxy]-1-(3-hydroxy-1-azetidinyl)-1-propanone | 1.52 g | S1C=CC2=C1C=CC(=C2)CCOCCC(=O)N2CC(C2)O | C16H19NO3S
reactant | N,N-diisopropylethyl-amine | 2.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloromethyl methyl ether | 1.0 mL | COCCl | C2H5ClO
reactant | Water | O | H2O
solvent | methylene chloride | 8.5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[2-(1-benzothiophen-5-yl)ethoxy]-1-[3-(methoxymethoxy)-1-azetidinyl]-1-propanone | 1.40 g | S1C=CC2=C1C=CC(=C2)CCOCCC(=O)N2CC(C2)OCOC | C18H23NO4S
